US06780418B1
Incubation of 100 μM Cys and 50 μM GlcN-Ins with 1 mM ATP in phosphate buffer, pH 7.5, containing 1 DTT after addition of cell extract supernatant resulted in an increase in Cys-GlcN-Ins from <0.2 to 26 μM over 60 min while the MSH content declined from 15 to 13 μM, corresponding to the MSH content present in the undialyzed cell extract. A parallel experiment with 100 μM AcCys in place of Cys resulted in an increase from <0.2 to 20 μM Cys-GlcN-Ins, and no change in MSH content (15 μM); however, marked conversion of AcCys to Cys had occurred by 60 min ([Cys]/[AcCys]˜3). If the MSH had increased by as much as 2 μM (10% of the change in Cys-GlcN-Ins) the change would have been detected and this experiment therefore established that conversion of Cys to Cys-GlcN-Ins is at least an order of magnitude faster than conversion of AcCys to MSH under these conditions.

reactant | Cys | 100 μM | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | GlcN-Ins | 50 μM | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC2[C@@H]([C@H](C([C@H]([C@H]2O)O)O)O)O)[NH3+])O)O)O
reactant | ATP | 1 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | DTT | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
solvent | phosphate | P(=O)([O-])([O-])[O-]
solvent | Cys-GlcN-Ins | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC2[C@@H]([C@H](C([C@H]([C@H]2O)O)O)O)O)NC(=O)[C@H](CS)[NH3+])O)O)O
product | AcCys | 100 μM | N([C@@H](CS)C(=O)O)C(=O)C | C5H9NO3S
